US05723450
4-[4-(3-Cyclohexylpropylidene)cyclohexylamino]-3-ethoxy-2-methylpyridine
Preparation was carried out analogously to Example 27 from 4-(4-oxocyclohexylamino)-3-ethoxy-2-methylpyridine and 3-cyclohexylpropyltriphenylphosphonium chloride. Yield: 42%

reactant | 4-(4-oxocyclohexylamino)-3-ethoxy-2-methylpyridine | O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OCC | C14H20N2O2
reactant | 3-cyclohexylpropyltriphenylphosphonium chloride | [Cl-].C1(CCCCC1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[4-(3-Cyclohexylpropylidene)cyclohexylamino]-3-ethoxy-2-methylpyridine | Yield: 42% | C1(CCCCC1)CCC=C1CCC(CC1)NC1=C(C(=NC=C1)C)OCC | C23H36N2O
